* source TEST_EX_1
Q_Q1         1 2 0 Q40236
R_R1         1 N00225  1k TC=0,0 
R_R2         N00170 2  10k TC=0,0 
V_V1         N00225 0 6Vdc
V_V2         N00170 0 1Vdc
