* source EXAM_EX5
X_U1         0 N00748 1 2 3 uA741
V_V2         0 2 10Vdc
V_V3         N00740 0  AC 1
+SIN 0 1 1k 0 0 0
R_R1         N00740 N00748  1k TC=0,0 
R_R2         N00748 3  20k TC=0,0 
V_V1         1 0 10Vdc
