* source EXAM_EX6
R_R1         N01295 N01303  1k TC=0,0 
X_U1         0 N01303 1 2 3 uA741
V_V2         0 2 10Vdc
V_V1         1 0 10Vdc
C_C1         N01303 3  100n  TC=0,0 
V_V4         N01295 0  AC 1
+SIN 0 1 100 0 0 0
