* source TEST_EX3
Q_Q1         N00329 N00333 N00357 Q40236
R_R1         0 N00333  24k TC=0,0 
R_R2         N00333 N00305  72k TC=0,0 
R_R3         N00329 N00305  2.6k TC=0,0 
R_R4         0 N00357  1.4k TC=0,0 
R_R5         0 N00381  8.6k TC=0,0 
C_C1         N00408 N00333  10u  TC=0,0 
C_C2         N00329 N00381  10u  TC=0,0 
C_C3         0 N00357  100u  TC=0,0 
V_V2         N00408 0  AC 1
+SIN 0 111m 10k 0 0 0
V_V1         N00305 0 12Vdc
