* source TEST_EX4
X_U1         N00323 N00387 N00161 N00173 N00375 uA741
V_V2         0 N00173 10Vdc
V_V1         N00161 0 10Vdc
V_V3         N00323 0  AC 1
+SIN 0 0.4875 100k 0 0 0
R_R1         0 N00387  1k TC=0,0 
R_R2         N00387 N00375  19k TC=0,0 
