* source LAB3
R_R1         0 N00259  1.4k TC=0,0 
R_R2         0 N00248  8.6k TC=0,0 
R_R3         N00227 N00634  2.6k TC=0,0 
R_R4         N00201 N00634  72k TC=0,0 
R_R5         0 N00201  24k TC=0,0 
Q_Q1         N00227 N00201 N00259 BC107A 
C_C1         N00259 0  100u  TC=0,0 
C_C2         N00227 N00248  100u  TC=0,0 
C_C3         N00756 N00201  100u  TC=0,0 
V_V1         N00634 0 12Vdc
V_V2         N00756 0  AC 1
+SIN 0 3V 10k 0 0 0
