* source LAB5
X_U1         5 1 2 3 4 uA741
V_V1         2 0 10Vdc
V_V2         0 3 10Vdc
R_R2         0 5  2k TC=0,0 
R_R3         5 4  8k TC=0,0 
V_V3         1 0  AC 1
+SIN 0 3 100 0 0 0
