* source LAB3
X_U1         1 0 2 4 3 uA741
V_V1         2 0 10Vdc
V_V2         0 4 10Vdc
R_R1         0 3  1k TC=0,0 
V_V3         1 0  AC 1
+SIN 0 10mV 10kHz 0 0 0
